US07772246B2
A mixture of 4-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)-2-(methylsulfonyl)pyrimidine B-1-2 (16 g, 40 mmol) and (s)-1-amino-propan-2-ol (9 g, 122 mmol) in THF (160 mL) was heated to reflux overnight. TLC (hexane: EtOAc=2:1) showed the reaction was complete, EtOAc (80 mL) and saturated aqueous NaCl (80 mL) were added to the mixture, and the layers were separated. The organic layer was separated, washed with saturated aqueous NaCl (30 mL), dried over Na2SO4 and concentrated to give (2S)-1-(4-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)pyrimidin-2-ylamino)propan-2-ol (B-1-3) (15 g, 96.9%) as a brown oil.

reactant | 4-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)-2-(methylsulfonyl)pyrimidine | 40 mmol, 16 g | IC1=NN(C=C1C1=NC(=NC=C1)S(=O)(=O)C)C(C)C | C11H13IN4O2S
reactant | (s)-1-amino-propan-2-ol | 122 mmol, 9 g | NC[C@H](C)O | C3H9NO
reactant | hexane | CCCCCC | C6H14
reactant | NaCl | 80 mL | [Na+].[Cl-]
solvent | THF | 160 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 80 mL | CCOC(=O)C | C4H8O2
product | (2S)-1-(4-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)pyrimidin-2-ylamino)propan-2-ol | 15 g, 96.9% | IC1=NN(C=C1C1=NC(=NC=C1)NC[C@H](C)O)C(C)C | C13H18IN5O
